US06747023B1
6-Chloro-1-phenylsulfonylindole
At −78° C., n-butyl lithium (a 1.61M hexane solution, 3.34 ml) was added to a solution of 6-chloroindole (777 mg) in tetrahydrofuran (25 ml), followed by heating to −40° C. over 1 hour. The reaction mixture was cooled back to −78° C. and added with benzenesulfonyl chloride (867 μl). The resulting mixture was heated to room temperature over 3 hours. Water was added to the reaction mixture, followed by extraction with dichloromethane. The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column (40 g of silica gel, hexane:ethyl acetate=5:7). The white solid so obtained was recrystallized from ethanol, whereby the title compound (826 mg, 55%) was obtained as a white solid.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 1.61M | CCCCCC | C6H14
reactant | 6-chloroindole | 777 mg | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | benzenesulfonyl chloride | 867 μl | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 6-Chloro-1-phenylsulfonylindole | ClC1=CC=C2C=CN(C2=C1)S(=O)(=O)C1=CC=CC=C1 | C14H10ClNO2S
